US08124766B2
With a procedure similar to example above, (1S,2S)-2-(4-{4-[(7-methoxy-3-methyl-1H-indole-2-carbonyl)-amino]-phenyl}-piperazine-1-carbonyl)-cyclopentanecarboxylic acid was prepared from 4-{4-[(7-methoxy-3-methyl-1H-indole-2-carbonyl)-amino]-phenyl}-piperazine-1-carboxylic acid tert-butyl ester and (1S,2S)-cyclopentane-1,2-dicarboxylic acid. LCMS calcd for C28H32N4O5 (m/e) 504, obsd 505 (M+H).

reactant | 4-{4-[(7-methoxy-3-methyl-1H-indole-2-carbonyl)-amino]-phenyl}-piperazine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=CC=C(C=C1)NC(=O)C=1NC2=C(C=CC=C2C1C)OC | C26H32N4O4
reactant | (1S,2S)-cyclopentane-1,2-dicarboxylic acid | [C@H]1([C@H](CCC1)C(=O)O)C(=O)O | C7H10O4
product | (1S,2S)-2-(4-{4-[(7-methoxy-3-methyl-1H-indole-2-carbonyl)-amino]-phenyl}-piperazine-1-carbonyl)-cyclopentanecarboxylic acid | COC=1C=CC=C2C(=C(NC12)C(=O)NC1=CC=C(C=C1)N1CCN(CC1)C(=O)[C@@H]1[C@H](CCC1)C(=O)O)C | C28H32N4O5
